US08313669B2
26.0 g (0.140 mol) of biphenyl-3,3′-diol and 10.0 g of 3-bromo-1-propanol are dissolved in 300 ml of acetone, and, after addition of 19.3 g (0.140 mol) of potassium carbonate, the mixture is heated under reflux overnight. The batch is subsequently filtered and evaporated, and the residue is chromatographed on silica gel with toluene/ethyl acetate (1:1), giving 3′-(3-hydroxypropoxy)biphenyl-3-ol as colourless crystals.

reactant | biphenyl-3,3′-diol | 0.140 mol, 26.0 g | C1(=CC(=CC=C1)O)C1=CC(=CC=C1)O | C12H10O2
reactant | 3-bromo-1-propanol | 10.0 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 0.140 mol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 3′-(3-hydroxypropoxy)biphenyl-3-ol | OCCCOC=1C=C(C=CC1)C1=CC(=CC=C1)O | C15H16O3
